US06025375
To a solution of [2-(3-methoxyphenyl)-cyclopentylidene]acetic acid (4.0 g) in methylene chloride (80 ml) were added benzoin (3.7 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodimide (4.1 ml) and 4-dimethylaminopyridine (2.1 g). The resulting mixture was stirred at room temperature for 12 hours and then partitioned between ethyl acetate and 1N-hydrochloric acid. The organic layer was separated, washed successively with 1N-hydrochloric acid, saturated sodium bicarbonate aqueous solution, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue and ammonium acetate (6.6 g) were dissolved in acetic acid (40 ml) and refluxed for 4 hours. The reaction mixture was evaporated in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed by silica gel to give 2-[(4,5-diphenyloxazol-2-yl)methyl]-1-(3-methoxyphenyl)cyclopentene (4.1 g).

reactant | [2-(3-methoxyphenyl)-cyclopentylidene]acetic acid | 4.0 g | COC=1C=C(C=CC1)C1C(CCC1)=CC(=O)O | C14H16O3
reactant | benzoin | 3.7 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodimide | 4.1 ml | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[(4,5-diphenyloxazol-2-yl)methyl]-1-(3-methoxyphenyl)cyclopentene | 4.1 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1=C(CCC1)C1=CC(=CC=C1)OC | C28H25NO2
